US05436350
Pilocarpine hydrochloride (3.92 g; 16.00 moles) was dissolved in distilled water (4 ml) and the solution was cooled to about 0° C. To the solution 18 ml of ice cold 2M NaOH were added in four portions. The solution was left standing at about 0° C. for one hour. After neutralizing excess NaOH with 5 ml of 1M HCl, the solution was evaporated under reduced pressure. The residue was dissolved in 60 ml of absolute ethanol and mixed for 10 minutes at 60° C. After cooling to 4° C. undissolved NaCl was removed by filtration. The filtrate was evaporated under reduced pressure, whereby 3.93 g of sodium pilocarpate were obtained as a white, extremely hygroscopic substance.

reactant | Pilocarpine hydrochloride | 16.00 moles, 3.92 g | CC[C@H]1[C@H](COC1=O)CC2=CN=CN2C.Cl
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1M, 5 ml | Cl | ClH
solvent | water | 4 ml | O | H2O
product | sodium pilocarpate | 3.93 g | CC[C@H]([C@@H](CC1=CN=CN1C)CO)C(=O)[O-].[Na+] | InChI=1S/C11H18N2O3.Na/c1-3-10(11(15)16)8(6-14)4-9-5-12-7-13(9)2;/h5,7-8,10,14H,3-4,6H2,1-2H3,(H,15,16);/q;+1/p-1/t8-,10+;/m0./s1
